US05922871
1-[N-(2,2-Diethoxyethyl)carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene
By the same procedure as described in the example 46, synthesis was carried out starting with 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid and using 2,2-diethoxyethylamine. Then, the product was recrystallized using ethanol and isopropyl ether to give the desired compound.

reactant | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H24N4O3
reactant | 2,2-diethoxyethylamine | C(C)OC(CN)OCC | C6H15NO2
product | 1-[N-(2,2-Diethoxyethyl)carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene | Yield: 76% | C(C)OC(CNC(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)OCC | C26H37N5O4
